* NGSPICE file created from cdac_route_probe_flat.ext - technology: sky130A

.subckt cdac_route_probe_flat TOP B0 B1
X0 B1 TOP sky130_fd_pr__cap_mim_m3_1 l=3 w=3
X1 B1 TOP sky130_fd_pr__cap_mim_m3_1 l=3 w=3
X2 B0 TOP sky130_fd_pr__cap_mim_m3_1 l=3 w=3
X3 B0 TOP sky130_fd_pr__cap_mim_m3_1 l=3 w=3
C0 TOP B1 2.41734f
C1 B0 TOP 2.54279f
C2 B0 B1 1.80016f
C3 TOP VSUBS 13.29458f
.ends

